US07342039B2
This compound was produced using similar methods as those used in Step 6, example 4, starting with 6-(3-aminooxy-propoxy)-4′-trifluoromethyl-biphenyl-3-carboxylic acid methyl ester (0.25 g, 0.68 mmol) and 1-benzyl-1H-indole-2-carbaldehyde (0.16 g, 0.68 mmol). The crude material was purified by recrystallizing two times from ethyl acetate/hexanes followed by HPLC (82% acetonitrile in 0.1% trifluoroacetic acid solution) and one final recrystallization from ethyl acetate/hexanes to give 6-[3-({[(1E)-(1-benzyl-1H-indol-2-yl)methylidene]amino}oxy)propoxy]-4′-(trifluoromethyl)-1,1 ′-biphenyl-3-carboxylic acid (0.21 g, 54%) as a white solid. mp=196-197° C. 1H NMR (400 MHz, DMSO-d6); δ 12.80 (bs, 1H), (s, 1H), 7.96 (dd, 1H), 7.88 (d, 1H), 7.74 (AA′BB′, 4H), 7.60 (d, 1H), 7.46 (d, 1H), 7.22-7.16 (m, 4H), 7.12 (t, 1H), 7.06 (t, 1H), 6.94 (d, 2H), 6.89 (s, 1H), 5.72 (s, 2H), 4.13 (t, 2H), 4.11 (t, 2H), 2.49 (m, 2H). Mass spec; (ES−) m/z 571.2. Elemental analysis; Calculated for C33H27F3N2O4: C, 69.22; H, 4.75; N, 4.89. Found: C, 69.04; H, 4.55; N, 4.82.

reactant | 6-(3-aminooxy-propoxy)-4′-trifluoromethyl-biphenyl-3-carboxylic acid methyl ester | 0.68 mmol, 0.25 g | COC(=O)C=1C=C(C(=CC1)OCCCON)C1=CC=C(C=C1)C(F)(F)F | C18H18F3NO4
reactant | 1-benzyl-1H-indole-2-carbaldehyde | 0.68 mmol, 0.16 g | C(C1=CC=CC=C1)N1C(=CC2=CC=CC=C12)C=O | C16H13NO
product | 6-[3-({[(1E)-(1-benzyl-1H-indol-2-yl)methylidene]amino}oxy)propoxy]-4′-(trifluoromethyl)-1,1 ′-biphenyl-3-carboxylic acid | 0.21 g, 54% | C(C1=CC=CC=C1)N1C(=CC2=CC=CC=C12)\C=N\OCCCOC1=CC=C(C=C1C1=CC=C(C=C1)C(F)(F)F)C(=O)O | C33H27F3N2O4
